US05576340
p -[1,1,2,2-Tetrakis(ethoxycarbonyl)ethyl]phenoxyacetone
Following a procedure similar to that described in Preparation 3, but using 11.7 g of p-[1,1,2,2-tetrakis(ethoxycarbonyl)ethyl]phenol, 7.9 g of bromoacetone, 7.9 g of potassium carbonate and 100 ml of dimethylformamide, and then purifying the reaction product by column chromatography through silica gel, using a 1:2 by volume mixture of ethyl acetate and hexane as the eluent, the title compound was obtained having an Rf=0.21 (thin layer chromatography over silica gel, using a 1:2 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | p-[1,1,2,2-tetrakis(ethoxycarbonyl)ethyl]phenol | 11.7 g | C(C)OC(=O)C(C(C(=O)OCC)C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)O | C20H26O9
reactant | bromoacetone | 7.9 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 7.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | p -[1,1,2,2-Tetrakis(ethoxycarbonyl)ethyl]phenoxyacetone | C(C)OC(=O)C(C(C(=O)OCC)C(=O)OCC)(C(=O)OCC)C1=CC=C(OCC(C)=O)C=C1 | C23H30O10
